US04432979
A suspension of 5-(2-pyrazinyl)-2(1H)-pyridone (6.5 g) and 6.6 g of potassium t-butoxide in 250 ml of dry DMF is stirred with warming until all the solid is dissolved. The stirred solution is cooled in an ice bath and 4.6 ml of bromoethane are added when the temperature reaches 5° C. The ice bath is removed and stirring is continued for 45 minutes at which time 0.5 ml of additional bromoethane is added. Stirring is continued over the weekend. 10 g of sodium bisulfate in distilled H2O are added to the reaction mixture which is filtered. The filtrate is evaporated and the residue taken up in boiling isopropanol. The isopropanol solution is treating with decolorizing charcoal and filtered while hot. The filtrate is evaporated in vacuum to remove residual DMF, resulting in the formulation of a solid. The solid is recrystallized from acetonitrile with hot filtration. The starting material crystallizes out. The acetonitrile mother liquid is evaporated and the residue chromatographed on 100 g of silica gel. The column is eluted with ethyl acetate, toluene and finally with methanol in ethyl acetate. The early fractions are discarded and the latter fractions are combined and recrystallized from hot toluene/decane and air dried, resulting in the desired 1-ethyl-5-(2-pyrazinyl)-2-pyridone, M.P. 119.5°-120.7° C.

reactant | 5-(2-pyrazinyl)-2(1H)-pyridone | 6.5 g | N1=C(C=NC=C1)C=1C=CC(NC1)=O | C9H7N3O
reactant | potassium t-butoxide | 6.6 g | CC(C)([O-])C.[K+]
reactant | bromoethane | 4.6 ml | BrCC | C2H5Br
solvent | DMF | 250 ml | CN(C)C=O | C3H7NO
product | 1-ethyl-5-(2-pyrazinyl)-2-pyridone | C(C)N1C(C=CC(=C1)C1=NC=CN=C1)=O | C11H11N3O
